US07368445B2
B. Preparation of 6-Iodo-3-methyl-3H-quinazolin-4-one
Suspend sodium hydride (1.13 g, 47 mmol) in a solution of 6-iodo-3H-quinazolin-4-one (2.5 g, 9.2 mmol) in DMF. Stir at room temperature for 20 min, add iodomethane (6.6 g, 46 mmol) into the mixture and stir for 2 h. Dilute the mixture with 3:1 chloroform/isopropyl alcohol and wash with saturated sodium chloride solution. Dry the organic phase (sodium sulfate) and concentrate in vacuo. Purify the residue with flash chromatography (dichloromethane to dichloromethane/methanol) to give 2.5 g (95%) of the titled compound as a white solid. MS ES+ m/e 287 (M+1).

reactant | sodium hydride | 47 mmol, 1.13 g | [H-].[Na+]
reactant | 6-iodo-3H-quinazolin-4-one | 9.2 mmol, 2.5 g | IC=1C=C2C(NC=NC2=CC1)=O | C8H5IN2O
reactant | iodomethane | 46 mmol, 6.6 g | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
product | 6-Iodo-3-methyl-3H-quinazolin-4-one | 2.5 g, 95% | IC=1C=C2C(N(C=NC2=CC1)C)=O | C9H7IN2O
